US03992394
6-(2-Phenylacetamido)-2,2-Dimethyl-3-(5-Tetrazolyl)Penam
A mixture of p-toluenesulfonic acid monohydrate (788 mg., 4.14 mmoles), acetone (35 ml.) and 6-triphenylmethylamino-2,2-dimethyl-3-(5-tetrazolyl)penam (2.0g.,) 4.14 mmoles) is stirred for twenty minutes at room temperature and is then diluted with water (100 ml.) and isopropylether (100 ml.). The biphasic mixture is stirred vigorously and adjusted to pH 7 with 2N sodium hydroxide. Phenylacetyl chloride (700 mg., 4.55 mmoles freshly distilled) is added and the reaction mixture maintained at pH between 5.5-6.5 by addition of 2N sodium hydroxide as necessary. Reaction is continued until the pH levels off at 6.5. The two phases are separated and the aqueous phase washed with ether (2 × 50 ml.). It is then layered with chloroform (100 ml.) and adjusted to pH 2 by addition of 6N HCl. The mixture is stirred, the phases separated and the aqueous phase extracted with chloroform (2 × 50 ml.). The chloroform phases are combined, dried (Na 2 SO4), and then concentrated under reduced pressure to about 50 ml. volume. A 1:1 solution of ether-hexane is added dropwise with vigorous stirring to the concentrate until precipitation of the product is complete. The white precipitate is filtered and air-dried. Yield - 850 mg. (57.4%) m.p. 168°-170°;

reactant | p-toluenesulfonic acid monohydrate | 4.14 mmoles, 788 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 6-triphenylmethylamino-2,2-dimethyl-3-(5-tetrazolyl)penam | 4.14 mmoles, 2.0g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C27H26N6OS
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | Phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | water | 100 ml | O | H2O
solvent | isopropylether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | 6-(2-Phenylacetamido)-2,2-Dimethyl-3-(5-Tetrazolyl)Penam | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C16H18N6O2S
